US05424183
4-Dodecyloxybenzoic acid:
This compound was prepared by hydrolysis of methyl 4-dodecyloxybenzoate in a manner analogous to that described above for 4-octadecyloxybenzoic acid.

reactant | methyl 4-dodecyloxybenzoate | C(CCCCCCCCCCC)OC1=CC=C(C(=O)OC)C=C1 | C20H32O3
reactant | 4-octadecyloxybenzoic acid | C(CCCCCCCCCCCCCCCCC)OC1=CC=C(C(=O)O)C=C1 | C25H42O3
product | 4-Dodecyloxybenzoic acid | C(CCCCCCCCCCC)OC1=CC=C(C(=O)O)C=C1 | C19H30O3
